US05130241
A solution of benzyl N5 -benzyloxycarbonyl-3-hydroxyornithinate hydrochloride containing approx. 90% less-soluble diastereoisomer and approx. 10% more-soluble diastereoisomer (1.0 g, 2.4 mmol) in water (15 ml) was stirred with ethyl acetate (150 ml) and adjusted to pH 7.75 with a dilute solution of sodium hydroxide. The aqueous layer was separated and extracted with ethyl acetate (3×100 ml). The combined organic layers were dried (MgSO4) and evaporated to yield benzyl N5 -benzyloxycarbonyl-3-hydroxyornithinate (0.57 g) as a partially crystalline oil. A sample of this material (430 mg, 1.15 mmol) was dissolved in distilled acetonitrile (15 ml) containing acrylic acid (0.788 ml, 11.5 mmol) and stirred at room temperature for three days. The resulting white precipitate was filtered off and washed with a few milliliters of acetonitrile to provide benzyl N2 -(β-carboxyethyl)-N5 -benzyloxycarbonyl-3-hydroxyornithinate (390mg 76%), m.p. 153.5-154.5 (acetonitrile), δmax (KBr) 3336, 1740, 1691, 1633, 1533, 750 and 698cm-1 ; δH [(CD3)2SO; 250 MHz] 1.45 (1H, m), 1.73 (1H, m), 2.31 (2H, t, J 6.6 Hz), 2.56 (1H, m), 2.74 (1H, m), 3.06 (3H, m), 3.37 (2H, br s), 3.63 (1H, m), 5.00 (2H, s), 5.12 (2H, s), 7.19 (1H, t, J 5.3 Hz) and 7.35 (10H, m). (Found: C, 61.86; H, 6.18; N, 6.21%; MH+, (p.i. F.A.B., thioglycerol), 445. C23H28N2O7 requires C, 62.15; H, 6.35; N, 6.30%; M, 444).

reactant | benzyl N5 -benzyloxycarbonyl-3-hydroxyornithinate hydrochloride | Cl.C(C1=CC=CC=C1)OC(=O)NCCC([C@H](N)C(=O)OCC1=CC=CC=C1)O
reactant | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 15 ml | O | H2O
product | benzyl N5 -benzyloxycarbonyl-3-hydroxyornithinate | 0.57 g | C(C1=CC=CC=C1)OC(=O)NCCC([C@H](N)C(=O)OCC1=CC=CC=C1)O | C20H24N2O5
